simulator lang=spectre
global 0

ahdl_include "dut_buggy.va"

Vin (vin 0) vsource type=pwl wave=[0 -0.25 30n -0.25 40n 0.35 75n 0.35 85n -0.1 120n -0.1]

XDUT (vin vout) precision_rectifier

tran tran stop=120n maxstep=500p
save vin vout
